US05622951
Trans-1-(2-Methoxyphenyl)-4-[1-(2,4-dimethylphenyl)-cyclohex-4-yl]piperazine
To a solution of 1-(2-methoxyphenyl)-4-[1-hydroxy-1-(2,4-dimethylphenyl)cyclohex-4-yl]piperazine in dichloromethane (anhydrous) at room temperature was added trifluoroacetic acid (8 equivalents). The solution was stirred overnight. Excess trifluoroacetic acid was removed under vacuo and the residue poured into sodium bicarbonate solution. The neutralised aqueous layer was extracted with dichloromethane, washed with salt solution, dried (MgSO4) and filtered. The solvent was removed and the residue purified by silica gel pressure column chromatography using hexane/ether (2/1) as eluant. The solid residue was recrystallised from ether to give the title compound which was converted to its dihydrochloride, m.p. 219° C. (dec.).

reactant | 1-(2-methoxyphenyl)-4-[1-hydroxy-1-(2,4-dimethylphenyl)cyclohex-4-yl]piperazine | COC1=C(C=CC=C1)N1CCN(CC1)C1CCC(CC1)(C1=C(C=C(C=C1)C)C)O | C25H34N2O2
reactant | trifluoroacetic acid | 8 equivalents | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Trans-1-(2-Methoxyphenyl)-4-[1-(2,4-dimethylphenyl)-cyclohex-4-yl]piperazine | COC1=C(C=CC=C1)N1CCN(CC1)[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)C)C | C25H34N2O
